US07723333B2
tert-Butyl (1-pyridin-2-ylazetidin-3-yl)carbamate
The title compound was prepared from 2-chloropyridine and tert-butyl azetidin-3-ylcarbamate in a similar manner as described for tert-butyl {1-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]azetidin-3-yl}carbamate. 1H NMR (500 MHz CDCl3): δ 1.46 (s, 9H), 3.76-3.80 (m, 2H), 4.31-4.35 (m, 2H), 4.63 (bs, 1H), 5.10 (bs, 1H), 6.29 (d, 1H), 6.61-6.64 (m, 1H), 7.43-7.47 (m, 1H), 8.14-8.16 (m, 1H); 13C NMR (125 MHz CDCl3): δ 28.58, 41.79, 58.58, 80.22, 106.36, 113.48, 137.37, 148.42, 155.24, 160.66; Mass Spectrum: M+H+ 250.

reactant | 2-chloropyridine | ClC1=NC=CC=C1 | C5H4ClN
reactant | tert-butyl azetidin-3-ylcarbamate | N1CC(C1)NC(OC(C)(C)C)=O | C8H16N2O2
reactant | tert-butyl {1-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]azetidin-3-yl}carbamate | ClC=1C(=NC=C(C1)C(F)(F)F)N1CC(C1)NC(OC(C)(C)C)=O | C14H17ClF3N3O2
product | tert-Butyl (1-pyridin-2-ylazetidin-3-yl)carbamate | N1=C(C=CC=C1)N1CC(C1)NC(OC(C)(C)C)=O | C13H19N3O2
